US05484944
4-Oxo-4,5,6,7-tetrahydrobenzofuran-3-carboxylic acid was prepared according to a modified literature procedure 1. To a stirring solution of potassium hydroxide (28.06 g, 0.5 mol) in methanol (100 mL) under Nitrogen at 0° C. was added dropwise a solution of cyclohexanedione (56.07 g, 0.5 mol) in methanol (100 mL). The mixture was stirred at 0° C. for 0.5 h, then a solution of ethyl bromopyruvate (66 mL, 0.525 mol) in methanol (100 mL) was added dropwise. After allowing the mixture to stir at ambient temperature for 17 h, a 50% aqueous sodium hydroxide solution (60 mL) was added dropwise and stirring continued an additional 7 h. After dilution with water, the solution was acididfied and the methanol removed in vacuo. Ice water was added and the precipitate filtered and dried in vacuo to afford 4-Oxo-4,5,6,7-tetrahydrobenzofuran-3-carboxylic acid.

reactant | potassium hydroxide | 0.5 mol, 28.06 g | [OH-].[K+]
reactant | cyclohexanedione | 0.5 mol, 56.07 g | C1(C(CCCC1)=O)=O | C6H8O2
reactant | ethyl bromopyruvate | 0.525 mol, 66 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | sodium hydroxide | 60 mL | [OH-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 100 mL | CO | CH4O
solvent | water | O | H2O
product | 4-Oxo-4,5,6,7-tetrahydrobenzofuran-3-carboxylic acid | O=C1CCCC2=C1C(=CO2)C(=O)O | C9H8O4
